US06797726B1
In 10 mL of methylene chloride is dissolved 1.00 g of 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-(methyl)amino}-1-ethanol. The solution thus obtained is cooled to 5° C., to which are added 0.32 mL of pyridine, 0.37 mL of acetic anhydride and 0.04 g of N,N-dimethylaminopyridine. The mixture is stirred at ambient temperature for 30 minutes. Water is added to the mixture, pH is adjusted to 7.5 with saturated aqueous solution of sodium hydrogen carbonate, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=100:1 to 50:1) to obtain 1.14 g of 2-{[2-(2-benzo[b]-thiophen-5-ylethoxy)-ethyl](methyl)amino}ethyl acetate as an oily product.

reactant | 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-(methyl)amino}-1-ethanol | 1.00 g | S1C2=C(C=C1)C=C(C=C2)CCOCCN(CCO)C | C15H21NO2S
reactant | pyridine | 0.32 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.37 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 2-{[2-(2-benzo[b]-thiophen-5-ylethoxy)-ethyl](methyl)amino}ethyl acetate | 1.14 g | C(C)(=O)OCCN(C)CCOCCC1=CC2=C(SC=C2)C=C1 | C17H23NO3S
